### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): formula for charpoly of an inverse matrix

### PR DESCRIPTION
**Pull request by llllvvuu**
Co-authored-by: Aristotle Harmonic <aristotle-harmonic@harmonic.fun>

---

- [x] depends on: #29709 to re-organized some imports

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 1]
```diff
@@ -162,6 +162,11 @@ theorem eval_det (M : Matrix n n R[X]) (r : R) :
   symm
   exact matPolyEquiv_eval _ _ _ _
 
+theorem det_one_sub_mul_comm (M : Matrix m n R) (N : Matrix n m R) :
```
Comment (llllvvuu) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: Or maybe the better thing would be to split LinearAlgebra.Matrix.SchurComplement into a blocks part that doesn't import LinearAlgebra.Matrix.PosDef, and then import that here?

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 2]
```diff
@@ -162,6 +162,11 @@ theorem eval_det (M : Matrix n n R[X]) (r : R) :
...
+    det (1 - M * N) = det (1 - N * M) := by
+  simpa [charpoly, charmatrix, eval_det, -Matrix.map_mul] using
+    congr_arg (Polynomial.eval 1) (charpoly_mul_comm' M N)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: why not keep the same proof as before?

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean (hunk 1 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: I've done that in #29709

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean (hunk 2 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: There were some tangled imports here, `det_one_sub_mul_comm` was using other stuff in SchurComplement.lean, but had a large transitive import graph through PosDef.lean, ultimately leading to an import cycle as SchurComplement.lean transitively imports Charpoly/Coeff.lean. I made a better fix in #29709 which will allow me to not have to move this lemma

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 3]
```diff
@@ -297,6 +298,19 @@ lemma reverse_charpoly (M : Matrix n n R) :
...
+  calc
+  _ = (scalar n X - C.mapMatrix A⁻¹).det := rfl
+  _ = C A⁻¹.det * (C.mapMatrix A * (scalar n X - C.mapMatrix A⁻¹)).det := by
+    rw [det_mul, ← RingHom.map_det, ← mul_assoc, ← C_mul, ← det_mul, inv_mul_of_invertible]
+    simp
+  _ = _ := by
+    rw [mul_sub, ← RingHom.map_mul, mul_inv_of_invertible, RingHom.map_one, ← neg_sub, det_neg,
+      det_one_sub_mul_comm, charpolyRev, smul_eq_diagonal_mul]
+    simp
+    ac_rfl
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: I don't really get why you chose these specific steps as `calc` steps. For example, if I redo the first intermediate like this, we can solve it by two `simp` calls. I imagine the same can be done for the second half too.
```suggestion
  _ = C (A⁻¹ * A).det * ((scalar n) X - C.mapMatrix A⁻¹).det := by simp
  _ = C A⁻¹.det * (C.mapMatrix A * (scalar n X - C.mapMatrix A⁻¹)).det := by
    simp [-inv_mul_of_invertible, RingHom.map_det, mul_assoc]
  _ = _ := by
    rw [mul_sub, ← RingHom.map_mul, mul_inv_of_invertible, RingHom.map_one, ← neg_sub, det_neg,
      det_one_sub_mul_comm, charpolyRev, smul_eq_diagonal_mul]
    simp
    ac_rfl
```

Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: changed to use more steps

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors merge
